US04060559
The same procedure as in Example 1 is repeated except that pellets of γ-alumina-calcium oxide (85:15 in weight ratio, baked product at 600° C for 3 hours) are used in place of the γ-alumina pellets. The conversion of the cyclohexanone dimer is confirmed to be always 100% during the 2,000 hours' reaction. Table 1 gives the selectivity for o-phenylphenol measured.

reactant | γ-alumina calcium oxide | [O-2].[O-2].[O-2].[Al+3].[Al+3].[O-2].[Ca+2]
reactant | γ-alumina | [O-2].[O-2].[O-2].[Al+3].[Al+3]
reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
product | o-phenylphenol | C1(=CC=CC=C1)C1=C(C=CC=C1)O | C12H10O
